US07285558B2
2-(1-benzothien-3-ylmethyl)-7-isobutyl-5-methyl-3-(1-methyl-1H-pyrrol-2-yl)-2H-pyrazolo[3,4-d]pyridine-4,6(5H,7H)-dione
This compound was made following the procedure described above, starting with 6-hydrazino-1-isobutyl-3-methylpyrimidine-2,4(1H,3H)-dione, and condensing first with 1-benzothiophene-3-carbaldehyde, followed by 1-methyl-1H-pyrrole-2-carbaldehyde. 447 (M+H).

reactant | 6-hydrazino-1-isobutyl-3-methylpyrimidine-2,4(1H,3H)-dione | N(N)C1=CC(N(C(N1CC(C)C)=O)C)=O | C9H16N4O2
reactant | 1-benzothiophene-3-carbaldehyde | S1C=C(C2=C1C=CC=C2)C=O | C9H6OS
reactant | 1-methyl-1H-pyrrole-2-carbaldehyde | CN1C(=CC=C1)C=O | C6H7NO
product | 2-(1-benzothien-3-ylmethyl)-7-isobutyl-5-methyl-3-(1-methyl-1H-pyrrol-2-yl)-2H-pyrazolo[3,4-d]pyridine-4,6(5H,7H)-dione | S1C=C(C2=C1C=CC=C2)CN2N=C1C(C(N(C(C1=C2C=2N(C=CC2)C)=O)C)=O)CC(C)C | C25H26N4O2S
